US04670421
Ethyl 4-[3-(trimethylsilyl)propylamino]benzoate
A solution of 20 g. 3-(trimethylsilyl)propyl bromide and 33.9 g. ethyl 4-aminobenzoate in 75 ml. hexamethylphosphoramide was stirred at 100° for 18 hr. The cooled reaction was diluted with 100 ml. water, the layers were separated, and the aqueous layer was washed three times 100 ml. portions of methylene chloride. The combined organic solutions were washed with water and brine, dried with anhydrous magnesium sulfate, passed through a pad of hydrous magnesium silicate, and evaporated to 96 g. orange liquid. The liquid was dissolved into 100 ml. ethanol and the product was precipitated with 100 ml. water. The solid was filtered and dried. Crystallization from water-ethanol yielded the title compound as a white solid, m.p. 64°-66° C.

reactant | 3-(trimethylsilyl)propyl bromide | C[Si](CCCBr)(C)C | C6H15BrSi
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl 4-[3-(trimethylsilyl)propylamino]benzoate | C[Si](CCCNC1=CC=C(C(=O)OCC)C=C1)(C)C | C15H25NO2Si
